.SUBCKT BT136 1 2 3
QN1 5 4 3 NOUT
QN2 11 6 7 NOUT
QP1 6 11 3 POUT
QP2 4 5 7 POUT
DF 4 5 DZ
DR 6 11 DZ
RF 4 6 40M
RT2 1 7 52.8M
RH 7 6 75
RGP 8 3 54.5
RG 2 8 26.4
RS 8 4 52.6
DN 9 2 DIN
RN 9 3 27.8
GNN 6 7 9 3 38.8M
GNP 4 5 9 3 51.2M
DP 2 10 DIP
RP 10 3 16.2
GP 7 6 10 3 26.1M
.MODEL DIN D (IS=53.5F)
.MODEL DIP D (IS=53.5F N=1.19)
.MODEL DZ D (IS=53.5F N=1.5 IBV=10U BV=600)
.MODEL POUT PNP (IS=53.5F BF=5 CJE=235P TF=25.5U)
.MODEL NOUT NPN (IS=53.5F BF=20 CJE=235P CJC=46.9P TF=1.7U)
.ENDS BT136
