
.SUBCKT L201E3 MT1 MT2 G
* TRIAC model for KiCad - Modified
QN1  5 4 3  NOUT
QN2 11 6 7  NOUT
QP1  6 11 3  POUT
QP2  4 5 7  POUT
DF  4  5  DZ
DR  6 11  DZ
RF  4 6  200MEG
RT2 1 7  0.528
RH  7 6  750
RGP 8 3  545
RG  2 8  264
RS  8 4  526
DN  9 2  DIN
RN  9 3  278
GNN  6 7 9 3 3.88M
GNP  4 5 9 3 5.12M
DP  2 10  DIP
RP  10 3  162
GP  7 6 10 3 2.61M

.MODEL DIN  D (IS=5.35F)
.MODEL DIP  D (IS=5.35F N=1.19)
.MODEL DZ   D (IS=5.35F N=1.5 IBV=1U BV=200)
.MODEL POUT PNP (IS=5.35F BF=5 CJE=117P TF=38.2U)
.MODEL NOUT NPN (IS=5.35F BF=20 CJE=117P CJC=23.4P TF=2.55U)

.ENDS L201E3
