*$
********************** Optocoupler Electrical Circuit Model *********************
** Product Name: MOC3081M
** 6-Pin DIP Zero-Cross Triac Driver Optocoupler (800V Peak)
** Spice Format: PSpice
**-------------------------------------------------------------------------------
* MOC3081M  I_trig=15mA
*  D+  D-  MT2  MT1
**-------------------------------------------------------------------------------
**               Anode
**               | Cathode
**               | | Main Term2
**               | | | Main Term 1
**               | | | |
.subckt MOC3081M 1 2 3 4
.PARAM Itrig=15m
.PARAM RH1=20k
.PARAM RH2=20k
.PARAM RH3=16.7k
Q1 vb1p vb1 4 0 NPN1
Q2 vb1 vb1p vd1 0 PNP1
R3 vb1 4 {RH2}
D1 11 2 DL
R1 ctrl10 4 1
C1 ctrl10 4 10e-6
R2 ctrl1 vb1 {RH1}
R4 vd1 vb1p {RH3}
Vsense 1 11 0
G1 ctrl10 4 value={-500*I(Vsense)*3.0e-3/Itrig}
R7 vb2p 4 {RH3}
R6 vd2 vb2 {RH2}
Q3 vb2p vb2 vd2 0 NPN1
Q4 vb2 vb2p 4 0 PNP1
D3 vd2 3 D11
D2 3 vd1 D11
R5 N001 vb2 {RH1}
E1 vd2 N001 ctrl1 4 -1
R34 3 4 100MEG
R12 ctrl1 4 1
E2 ctrl1 4 value={IF(V(ctrl10,4)>1.45 & abs(V(34)) < 12, 2, 0)}
C2 ctrl1 4 1e-6
G3 34 0 value={-V(3,4)/1000}
R13 34 0 1k
C3 34 0 0.1e-6
.MODEL PNP1 PNP(Is=1e-15 BF=10 Cjc=10p Cje=20p Tf=0.1u Ise=1e-12)
.MODEL NPN1 NPN(Is=1e-15 BF=10 Cjc=10p Cje=20p Tf=0.1u Ise=1e-12)
.MODEL D11 d
+ IS=3.5e-11       N=0.75           RS=5.45        BV=1100
+ IBV=1e-3         CJO=50e-12       TBV1=1.5e-3    ISR=5.0e-10
+ NR=1.0           TRS1=3.2e-3      TRS2=8.1e-6    EG=0.15
.MODEL DL d
+ IS=2.2534e-15    RS=2.665         N=1.5          EG=0.48
+ ISR=5.5e-11      NR=3.0
+ XTI=3.0          BV=1100          IBV=0.0001
.ends MOC3081M
**------------------------------------------------------------------
** Creation: Jul.-17-2023  Rev: 1.0
** onsemi
*$
********************** Optocoupler Electrical Circuit Model *********************
** Product Name: MOC3082M
** 6-Pin DIP Zero-Cross Triac Driver Optocoupler (800V Peak)
** Spice Format: PSpice
**-------------------------------------------------------------------------------
* MOC3082M  I_trig=10mA
*  D+  D-  MT2  MT1
**-------------------------------------------------------------------------------
**               Anode
**               | Cathode
**               | | Main Term2
**               | | | Main Term 1
**               | | | |
.subckt MOC3082M 1 2 3 4
.PARAM Itrig=10m
.PARAM RH1=20k
.PARAM RH2=20k
.PARAM RH3=16.7k
Q1 vb1p vb1 4 0 NPN1
Q2 vb1 vb1p vd1 0 PNP1
R3 vb1 4 {RH2}
D1 11 2 DL
R1 ctrl10 4 1
C1 ctrl10 4 10e-6
R2 ctrl1 vb1 {RH1}
R4 vd1 vb1p {RH3}
Vsense 1 11 0
G1 ctrl10 4 value={-500*I(Vsense)*3.0e-3/Itrig}
R7 vb2p 4 {RH3}
R6 vd2 vb2 {RH2}
Q3 vb2p vb2 vd2 0 NPN1
Q4 vb2 vb2p 4 0 PNP1
D3 vd2 3 D11
D2 3 vd1 D11
R5 N001 vb2 {RH1}
E1 vd2 N001 ctrl1 4 -1
R34 3 4 100MEG
R12 ctrl1 4 1
E2 ctrl1 4 value={IF(V(ctrl10,4)>1.45 & abs(V(34)) < 12, 2, 0)}
C2 ctrl1 4 1e-6
G3 34 0 value={-V(3,4)/1000}
R13 34 0 1k
C3 34 0 0.1e-6
.MODEL PNP1 PNP(Is=1e-15 BF=10 Cjc=10p Cje=20p Tf=0.1u Ise=1e-12)
.MODEL NPN1 NPN(Is=1e-15 BF=10 Cjc=10p Cje=20p Tf=0.1u Ise=1e-12)
.MODEL D11 d
+ IS=3.5e-11       N=0.75           RS=5.45        BV=1100
+ IBV=1e-3         CJO=50e-12       TBV1=1.5e-3    ISR=5.0e-10
+ NR=1.0           TRS1=3.2e-3      TRS2=8.1e-6    EG=0.15
.MODEL DL d
+ IS=2.2534e-15    RS=2.665         N=1.5          EG=0.48
+ ISR=5.5e-11      NR=3.0
+ XTI=3.0          BV=1100          IBV=0.0001
.ends MOC3082M
**------------------------------------------------------------------
** Creation: Jul.-17-2023  Rev: 1.0
** onsemi
*$
********************** Optocoupler Electrical Circuit Model *********************
** Product Name: MOC3083M
** 6-Pin DIP Zero-Cross Triac Driver Optocoupler (800V Peak)
** Spice Format: PSpice
**-------------------------------------------------------------------------------
* MOC3083M  I_trig=5mA
*  D+  D-  MT2  MT1
**-------------------------------------------------------------------------------
**               Anode
**               | Cathode
**               | | Main Term2
**               | | | Main Term 1
**               | | | |
.subckt MOC3083M 1 2 3 4
.PARAM Itrig=5m
.PARAM RH1=20k
.PARAM RH2=20k
.PARAM RH3=16.7k
Q1 vb1p vb1 4 0 NPN1
Q2 vb1 vb1p vd1 0 PNP1
R3 vb1 4 {RH2}
D1 11 2 DL
R1 ctrl10 4 1
C1 ctrl10 4 10e-6
R2 ctrl1 vb1 {RH1}
R4 vd1 vb1p {RH3}
Vsense 1 11 0
G1 ctrl10 4 value={-500*I(Vsense)*3.0e-3/Itrig}
R7 vb2p 4 {RH3}
R6 vd2 vb2 {RH2}
Q3 vb2p vb2 vd2 0 NPN1
Q4 vb2 vb2p 4 0 PNP1
D3 vd2 3 D11
D2 3 vd1 D11
R5 N001 vb2 {RH1}
E1 vd2 N001 ctrl1 4 -1
R34 3 4 100MEG
R12 ctrl1 4 1
E2 ctrl1 4 value={IF(V(ctrl10,4)>1.45 & abs(V(34)) < 12, 2, 0)}
C2 ctrl1 4 1e-6
G3 34 0 value={-V(3,4)/1000}
R13 34 0 1k
C3 34 0 0.1e-6
.MODEL PNP1 PNP(Is=1e-15 BF=10 Cjc=10p Cje=20p Tf=0.1u Ise=1e-12)
.MODEL NPN1 NPN(Is=1e-15 BF=10 Cjc=10p Cje=20p Tf=0.1u Ise=1e-12)
.MODEL D11 d
+ IS=3.5e-11       N=0.75           RS=5.45        BV=1100
+ IBV=1e-3         CJO=50e-12       XTI=1.5e-3    ISR=5.0e-10
+ NR=1.0           TRS1=3.2e-3      TRS2=8.1e-6    EG=0.15
.MODEL DL d
+ IS=2.2534e-15    RS=2.665         N=1.5          EG=0.48
+ ISR=5.5e-11      NR=3.0
+ XTI=3.0          BV=1100          IBV=0.0001
.ends MOC3083M
**------------------------------------------------------------------
** Creation: Jul.-17-2023  Rev: 1.0
** onsemi
*$