* 2N5444 TRIAC model using two SCRs
.subckt 2N5444 MT2 G MT1

* SCR models (one for each half-cycle)
X1 MT2 G Node1 MySCR
X2 MT1 G Node2 MySCR

* Resistors for holding current simulation
Rhold1 Node1 MT1  100
Rhold2 Node2 MT2  100

* Define SCR model
.model MySCR SCR (it=70mA ih=70mA vt=0.7v vgt=2.0v)
.ends 2N5444
